US07696223B2
c) 2-tert-Butyl-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A solution of 2-tert-butyl-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester (12.8 g, 26.7 mmol) in 350 mL of anhydrous THF was cooled to 0° C. with an external ice bath and 53 mL of 1 N potassium tert-butoxide was added slowly. The reaction was stirred at 0° C. for 2 h and then allowed to warm to room temperature and stirred for 2 h. The reaction was diluted with ethyl acetate and washed with a solution of 200 mL saturated ammonium chloride and 50 mL 1 N HCl. The organic fraction was washed with brine, dried over anhydrous sodium sulfate and concentrated to 11.5 g of product. MS (ESI+): m/z 433.4 (M+1).

reactant | 2-tert-butyl-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | 26.7 mmol, 12.8 g | C(C)OC(=O)C1=C(N=C(S1)C(C)(C)C)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C24H34N2O6S
reactant | potassium tert-butoxide | 1 N, 53 mL | CC(C)([O-])C.[K+]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butyl-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C2=C(CN1CC1=C(C=C(C=C1)OC)OC)N=C(S2)C(C)(C)C)=O | C22H28N2O5S
